US07265149B2
In analogy to the procedure described for example 1 f], {5-[5-(4-chloro-phenyl)-1-methyl-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with LiOH to obtain {5-[5-(4-chloro-phenyl)-1-methyl-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid as colorless solid.

reactant | {5-[5-(4-chloro-phenyl)-1-methyl-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC(=CC=C12)OCC1=NN(C(=C1)C1=CC=C(C=C1)Cl)C)=O | C25H26ClN3O3
reactant | LiOH | [Li+].[OH-]
product | {5-[5-(4-chloro-phenyl)-1-methyl-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | ClC1=CC=C(C=C1)C1=CC(=NN1C)COC=1C=C2C=CN(C2=CC1)CC(=O)O | C21H18ClN3O3
